US08383644B2
(5-Hydroxymethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.3 g) and 1 g of triphenylphosphine polystyrene (1.2 mmol/g) were taken in anhydrous dichloromethane (6 mL) and cooled to 0° C., and carbontetrabromide (0.4 g) added. The mixture stirred for 1 h. at 0° C. room temperature for 2 h. Resin was filtered and washed with 5 mL of dichloromethane, filtrate was concentrated and dried in vacuum give (5-Bromomethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.3 g). This was used in the next reaction with no further purification. 1H NMR (400 MHz, Acetone-d6) 4.9 (s, 2H), 2.45 (s, 3H), 1.55 (s, 3H).

reactant | (5-Hydroxymethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)CO)=O | C10H16N2O3S
reactant | carbontetrabromide | 0.4 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (5-Bromomethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.3 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)CBr)=O | C10H15BrN2O2S
